US07834190B2
Production of (2S,3S)—N-tert-butoxycarbonyl-3-amino-2-hydroxy-hexanoic acid
Ethyl (4S,5S)-2-methyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxylate (0.68 g, 3 mmol) and 6 N hydrochloric acid (10 ml) were mixed, and the mixture was stirred at 100° C. for 14 hours. The mixture was cooled to 5° C., and the pH thereof was adjusted to 9.8. A toluene solution (1 ml) of di-tert-butyl dicarbonate (1 eq.) was added, and the mixture was stirred at room temperature for 2 hours. Water (10 ml) and ethyl acetate (20 ml) were added thereto, and the pH was adjusted to 2.3. The aqueous layer was removed, and the solvent was evaporated away under reduced pressure to obtain the title compound (0.71 g, yield: 78%).

reactant | Ethyl (4S,5S)-2-methyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxylate | 3 mmol, 0.68 g | CC=1O[C@@H]([C@@H](N1)CCC)C(=O)OCC | C10H17NO3
reactant | hydrochloric acid | 6 N, 10 ml | Cl | ClH
reactant | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
reactant | di-tert-butyl dicarbonate | 1 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 10 ml | O | H2O
product | (2S,3S)—N-tert-butoxycarbonyl-3-amino-2-hydroxy-hexanoic acid | 0.71 g, yield: 78% | C(C)(C)(C)OC(=O)N[C@H]([C@@H](C(=O)O)O)CCC | C11H21NO5
